US05223498
A solution of 2-piperidinoaniline (17.6 g) in dioxane (100 ml) was added over 25 minutes to a mixture of thiophosgene (10.2 ml) and water (200 ml) which had been cooled to 0° C. The temperature of the mixture was allowed to rise to ambient and the mixture was stirred for 4 hours. Ice (200 g) and water (200 ml) were added and the mixture extracted with ether (6×50 ml). The combined extracts were washed with water (100 ml) and brine (100 ml), dried and evaporated to give a residue which purified by chromatography on a silica column eluted with hexane to give 2 -piperidinophenyl isothiocyanate as an oil.

reactant | 2-piperidinoaniline | 17.6 g | N1(CCCCC1)C1=C(N)C=CC=C1 | C11H16N2
reactant | thiophosgene | 10.2 ml | C(=S)(Cl)Cl | CCl2S
reactant | water | 200 ml | O | H2O
reactant | water | 200 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2 -piperidinophenyl isothiocyanate | N1(CCCCC1)C1=C(C=CC=C1)N=C=S | C12H14N2S
